US07273868B2
A mixture of whole amount of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7-,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-benzylsulfinylpyrimidine (prepared in the above (5)), 4-hydroxypiperidine 57 mg, triethylamine 57 mg and N,N-dimethylacetamide 3 ml is stirred at 60° C. for 1.5 hours. After cooling the reaction mixture is diluted with ice water and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo. The residue is crystallized from a mixture of ethyl acetate and isopropyl ether to give of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-(4-hydroxypiperidin-1-yl)pyrimidine as a colorless crystalline powder 75 mg.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7-,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-benzylsulfinylpyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CC=3N(CC2)C=CN3)S(=O)CC3=CC=CC=C3)C=CC1OC | C27H27ClN6O4S
reactant | 4-hydroxypiperidine | 57 mg | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 57 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-(4-hydroxypiperidin-1-yl)pyrimidine | 75 mg | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CC=3N(CC2)C=CN3)N3CCC(CC3)O)C=CC1OC | C25H30ClN7O4
